US08389555B2
STEP E: Preparation of N-(4,4-diethoxybutyl)-4-phenylpiperidine-1-carboxamide
A solution of 895 mg (4 mmol) of 4-phenylpiperidine-1-carbonylchloride in 4 mL dichloromethane is added to 0.69 mL (4 mmol) 4,4-diethoxybutylamine and 1.68 mL (12 mmol) of triethylamine dissolved in 20 mL of dichloromethane. The mixture is stirred overnight. 20 mL of saturated sodium carbonate solution is added. The organic phase is separated, dried with sodium sulfate and the solvent evaporated.

reactant | 4-phenylpiperidine-1-carbonylchloride | 4 mmol, 895 mg | C1(=CC=CC=C1)C1CCN(CC1)C(=O)Cl | C12H14ClNO
reactant | 4,4-diethoxybutylamine | 4 mmol, 0.69 mL | C(C)OC(CCCN)OCC | C8H19NO2
reactant | triethylamine | 12 mmol, 1.68 mL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(4,4-diethoxybutyl)-4-phenylpiperidine-1-carboxamide | C(C)OC(CCCNC(=O)N1CCC(CC1)C1=CC=CC=C1)OCC | C20H32N2O3
